US06469176B1
Preparation of 4-Bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline
30 g (170 mmol) of 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline are dissolved in 400 ml of acetonitrile, and 94 g (0.68 mol) of potassium carbonate are added. 84 g (174 mmol) of tetrabutylammonium tribromide are subsequently added a little at a time with vigorous stirring at temperatures<30° C. For work-up, the solid is filtered off with suction and the filtrate is diluted with methylene chloride and extracted with water. The solvent is stripped off and the residue is again taken up in methyl tert-butyl ether and washed twice with water. The organic phase is dried and concentrated.

reactant | 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 170 mmol, 30 g | O1N=C(CC1)C1=C(N)C=CC=C1C | C10H12N2O
reactant | potassium carbonate | 0.68 mol, 94 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrabutylammonium tribromide | 174 mmol, 84 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 4-Bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | BrC1=C(C(=C(N)C=C1)C1=NOCC1)C | C10H11BrN2O
